US05360811
3-(1-Dodecyl)-5-isoxazolemethanol
To a solution of 1-nitrotridecane (10.5 g) and O-trimethylsilyl-propynol (5.88 g) in dry benzene (100 ml) was added dropwise a solution of freshly distilled phenylisocyanate (10.9 g) and triethylamine (5.56 g) in dry benzene (40 ml) at 40° C., with mechanical stirring. The mixture was heated to 60° C. for 3.5 hr, cooled, and filtered. The filtrate was evaporated, taken up in tetrahydrofuran (300 ml) and 1.0M tetrabutylammonium fluoride (8 ml) was added. After 30 mins, the mixture was evaporated and the residue was purified by flash chromatography (silica gel, 2% methanol:dichloromethane). The appropriate fractions were collected and evaporated to give 10.5 g (86%) of product, mp 61°-63° C.

reactant | 1-nitrotridecane | 10.5 g | [N+](=O)([O-])CCCCCCCCCCCCC | C13H27NO2
reactant | O-trimethylsilyl-propynol | 5.88 g | C[Si](OC#CC)(C)C | C6H12OSi
reactant | phenylisocyanate | 10.9 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylamine | 5.56 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 3-(1-Dodecyl)-5-isoxazolemethanol | 10.5 g, 86% | C(CCCCCCCCCCC)C1=NOC(=C1)CO | C16H29NO2
